US07115615B2
7-[2-(4-hydroxy-N-methylpiperidin-4-yl)ethoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline
A mixture of 7-[2-(4-hydroxypiperidin-4-yl)ethoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline (0.065 g), formaldehyde (40% aqueous solution; 0.2 ml) and formic acid (2 ml) was stirred and heated to 100° C. for 1.5 hours. The mixture was basified to pH9.5 by the addition of 2N aqueous sodium hydroxide solution and extracted with ethyl acetate. The organic phase was washed with water and with brine, dried over magnesium sulphate and evaporated. The residue was purified by column chromatography on silica using an 80:17:3 mixture of methylene chloride, methanol and a saturated methanolic ammonia solution as eluent. There was thus obtained the title compound as a solid (0.021 g); NMR Spectrum: (DMSOd6 and CF3CO2D) 1.8 (m, 4H), 2.05 (m, 2H), 2.8 (s, 3), 3.15 (m, 2H), 3.3 (m, 2H), 4 (s, 3H), 4.35 (m, 2H), 6.05 (s, 2H), 6.95 (m, 3H), 7.4 (s, 1H), 8.1 (s, 1H), 8.85 (s, 1H); Mass Spectrum: M+H+ 453.

reactant | 7-[2-(4-hydroxypiperidin-4-yl)ethoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline | 0.065 g | OC1(CCNCC1)CCOC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1)OCO2)OC | C23H26N4O5
reactant | formaldehyde | 0.2 ml | C=O | CH2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | formic acid | 2 ml | C(=O)O | CH2O2
product | 7-[2-(4-hydroxy-N-methylpiperidin-4-yl)ethoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinazoline | 0.021 g | OC1(CCN(CC1)C)CCOC1=C(C=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1)OCO2)OC | C24H28N4O5
